US06683095B2
Synthesis of (E)-3-(3-chloro-4-fluorophenyl)-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (500 mg, 2.56 mmol) and 3-chloro-4-fluorobenzaldehyde (486 mg, 3.07 mmol) were reacted according to the same procedure as Preparation 22 to give 800 mg (Yield 94%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 2.56 mmol, 500 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 3-chloro-4-fluorobenzaldehyde | 3.07 mmol, 486 mg | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
product | (E)-3-(3-chloro-4-fluorophenyl)-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 800 mg, Yield 94% | ClC=1C=C(C=CC1F)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C16H11ClFNO4
